US06927222B2
(i) 3-Hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of pyrrolidin-3-ol (16.25 g, 186.5 mmol) and di-tert-butyl-dicarbonate (40.7 g, 186.5 mmol) in dry THF (50 ml) under nitrogen was stirred over night. Concentration at reduced pressure and purification by flash chromatography on silica (EtOAc:heptane, 7:3) gave 31.9 g (91%) of the subtitle compound.

reactant | pyrrolidin-3-ol | 186.5 mmol, 16.25 g | N1CC(CC1)O | C4H9NO
reactant | di-tert-butyl-dicarbonate | 186.5 mmol, 40.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 31.9 g, 91% | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
